US04874773
Preparation of 3-aminocrotonic allylamide:
Acetoacetic allylamide (111.4 g, 0.79 mole) is dissolved in ethanol (80 ml) and thereto is passed ammonia gas, while the temperature is controlled below 30° C. by cooling with a water bath. After passing ammonia gas for about 3 hours, colorless crystals precipitate. The reaction mixture is allowed to stand at 0° C. overnight. The precipitates are separated by filtration and washed with diethyl ether to give the title compound (91.5 g, yield 82.7%) as colorless prisms, m.p. 143°-144° C.

reactant | Acetoacetic allylamide | 0.79 mole, 111.4 g | C(C=C)NC(CC(=O)C)=O | C7H11NO2
reactant | ammonia | N | H3N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 3-aminocrotonic allylamide | 91.5 g, yield 82.7% | C(C=C)NC(\C=C(\C)/N)=O | C7H12N2O
